US07279487B2
Step 8: Preparation of 1-benzyl-4-(benzyloxy)-N-{4-fluoro-2-[(methylamino)carbonyl]benzyl}-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxamide
To a solution of 1-benzyl-4-(benzyloxy)-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxylic acid (0.15 g, 0.39 mmol) in DMF (4 mL) was added HOAT (0.26 g, 1.94 mmol) and EDC (0.07 g, 0.47 mmol). The solution was stirred for 10 minutes at which time EDC (0.036 g, 0.23 mmol), {4-fluoro-2-[(methylamino)carbonyl]phenyl}methanaminium chloride (0.108 g, 0.47 mmol), and DIEA (0.10 g, 0.78 mmol) were added. The reaction was then stirred at room temperature overnight at which time the solution was purified by preparative reverse phase HPLC eluting with a gradient of 5-95% acetonitrile/water (0.1% TFA). The fractions that contained the desired product were concentrated. Note that during the prep des-O-benzyl product was also obtained. The mixture was taken on to the next step.

reactant | 1-benzyl-4-(benzyloxy)-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxylic acid | 0.39 mmol, 0.15 g | C(C1=CC=CC=C1)N1C(C(=C(C2=NC=CC=C12)OCC1=CC=CC=C1)C(=O)O)=O | C23H18N2O4
reactant | HOAT | 1.94 mmol, 0.26 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 0.47 mmol, 0.07 g
reactant | EDC | 0.23 mmol, 0.036 g
reactant | {4-fluoro-2-[(methylamino)carbonyl]phenyl}methanaminium chloride | 0.47 mmol, 0.108 g | [Cl-].FC1=CC(=C(C=C1)C[NH3+])C(=O)NC
reactant | DIEA | 0.78 mmol, 0.10 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 1-benzyl-4-(benzyloxy)-N-{4-fluoro-2-[(methylamino)carbonyl]benzyl}-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxamide | C(C1=CC=CC=C1)N1C(C(=C(C2=NC=CC=C12)OCC1=CC=CC=C1)C(=O)NCC1=C(C=C(C=C1)F)C(=O)NC)=O | C32H27FN4O4
